US04435413
2-(N-Allyloxycarbonylglycylamino)-Ethanethiol
Add pivaloyl chloride (2.4 ml) in CH2Cl2 (10 ml) to a cooled (0°-5° C.) and stirred solution of N-allyloxycarbonylglycine (3.18 g) and triethylamine (2.8 ml) in dry CH2Cl2 (50 ml). Stir the mixture at 0°-5° C. for 15 mins. and then add a solution of 2-aminoethanethiol hydrochloride (2.4 g) and triethylamine (2.8 ml) in ethanol (15 ml) and CH2Cl2 (40 ml). Stir at room temperature for 1 hour, wash the mixture with aqueous 2 N-H2SO4 and aqueous NaHCO3, dry and evaporate. Triturate the resulting solid with ether, filter and dry to give the title compound.

reactant | pivaloyl chloride | 2.4 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N-allyloxycarbonylglycine | 3.18 g | C(C=C)OC(=O)NCC(=O)O | C6H9NO4
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-aminoethanethiol hydrochloride | 2.4 g | Cl.NCCS
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(N-Allyloxycarbonylglycylamino)-Ethanethiol | C(C=C)OC(=O)NCC(=O)NCCS | C8H14N2O3S
